US05262390
To a solution of 13.75 g (0.0967 mole) of 2-fluoro-4-methoxyaniline in 120 mL of toluene was slowly added over a period of 30 minutes a solution of 19.13 g (0.0967 mole) of trichloromethyl chloroformate in 30 mL of toluene. During the addition the temperature rose to 35° C. The reaction mixture was stirred without external heating for 30 minutes and then heated at reflux for approximately 17 hours. At the end of this time all of the solvent was removed by distillation, leaving 2-fluoro-4-methoxyphenyl isocyanate as a purple liquid, which was used immediately in Step D.

reactant | 2-fluoro-4-methoxyaniline | 0.0967 mole, 13.75 g | FC1=C(N)C=CC(=C1)OC | C7H8FNO
reactant | trichloromethyl chloroformate | 0.0967 mole, 19.13 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-methoxyphenyl isocyanate | FC1=C(C=CC(=C1)OC)N=C=O | C8H6FNO2
